US04255434
33.7 g (0.1 mol) of 4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-butan-2-one were dissolved in 250 ml of carbon tetrachloride. 5.1 ml (0.1 mol) of bromine were added dropwise at room temperature at a rate such that the bromine was steadily consumed. The mixture was then stirred for 30 minutes at room temperature. After distilling off the solvent in vacuo, crude 1-bromo-4-chloro-1-[4-(4-chlorophenyl)-phenoxy]3,3-dimethyl-butan-2-one was obtained in quantitative yield and was directly reacted further.

reactant | 4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-butan-2-one | 0.1 mol, 33.7 g | ClCC(C(COC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)(C)C | C18H18Cl2O2
reactant | bromine | 0.1 mol, 5.1 ml | BrBr | Br2
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-4-chloro-1-[4-(4-chlorophenyl)-phenoxy]3,3-dimethyl-butan-2-one | quantitative yield | BrC(C(C(CCl)(C)C)=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C18H17BrCl2O2
